US08198450B2
Preparation of (R)-5-[2-(5,6-diethyl-indan-2-ylamino)-1-hydroxyethyl]-8-hydroxy-1H-quinolin-2-one hydrogen malonate
A suspension of 2.172 g (R)-5-[2-(5,6-diethyl-indan-2-ylamino)-1-hydroxyethyl]-8-hydroxy-1H-quinolin-2-one base (5.533 mmoles) und 0.576 g malonic acid (5.533 mmoles) in 25 ml n-butanol is heated to 80° C. Initially an oil formed during heating, which crystallizes on prolonged heating. The mixture is stirred at 80° C. for 15 minutes and then allowed to cool to room temperature. The suspension is stirred for 18 hours at room temperature. After filtration the crystals are washed with 5 ml n-butanol and 10 ml acetone. The product is dried at 70° C. and 70° C. for 20 hours. Yield: 2.62 g white powder (95.28%)

reactant | (R)-5-[2-(5,6-diethyl-indan-2-ylamino)-1-hydroxyethyl]-8-hydroxy-1H-quinolin-2-one | 5.533 mmoles, 2.172 g | C(C)C=1C=C2CC(CC2=CC1CC)NC[C@H](O)C1=C2C=CC(NC2=C(C=C1)O)=O | C24H28N2O3
reactant | malonic acid | 5.533 mmoles, 0.576 g | C(CC(=O)O)(=O)O | C3H4O4
solvent | n-butanol | 25 ml | C(CCC)O | C4H10O
product | (R)-5-[2-(5,6-diethyl-indan-2-ylamino)-1-hydroxyethyl]-8-hydroxy-1H-quinolin-2-one hydrogen malonate | C(CC(=O)O)(=O)O.C(C)C=1C=C2CC(CC2=CC1CC)NC[C@H](O)C1=C2C=CC(NC2=C(C=C1)O)=O | InChI=1S/C24H28N2O3.C3H4O4/c1-3-14-9-16-11-18(12-17(16)10-15(14)4-2)25-13-22(28)19-5-7-21(27)24-20(19)6-8-23(29)26-24;4-2(5)1-3(6)7/h5-10,18,22,25,27-28H,3-4,11-13H2,1-2H3,(H,26,29);1H2,(H,4,5)(H,6,7)/t22-;/m0./s1
